US07262198B2
To a solution of ethyl 1-(4-fluorophenyl)-5-oxopyrrolidine-3-carboxylate (0.25 g, 1.0 mmol) in ethanol (10 ml) was added lithium chloride (0.085 g, 2.0 mmol) and sodium borohydride (0.080 g, 2.0 mmol). The reaction was stirred 24 hours at room temperature. The solvent was removed and 30 ml water was added to the residue. The aqueous solution was acidified with conc. HCl until the pH was ˜2-3. The acidic solution was extracted with EtOAc (3×75 ml). The organic layer was then washed with water (100 ml), dried with sodium sulfate and evaporated. The residue was purified using preparative TLC (15:1 DCM: MeOH) to yield 1-(4-fluorophenyl)-4-(hydroxymethyl)pyrrolidin-2-one (H HNMR). This was repeated twice.

reactant | ethyl 1-(4-fluorophenyl)-5-oxopyrrolidine-3-carboxylate | 1.0 mmol, 0.25 g | FC1=CC=C(C=C1)N1CC(CC1=O)C(=O)OCC | C13H14FNO3
reactant | lithium chloride | 2.0 mmol, 0.085 g | [Cl-].[Li+]
reactant | sodium borohydride | 2.0 mmol, 0.080 g | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4-fluorophenyl)-4-(hydroxymethyl)pyrrolidin-2-one | FC1=CC=C(C=C1)N1C(CC(C1)CO)=O | C11H12FNO2
